US09421205B2
(d) tert-Butyl 4-(4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate (I5)
To a nitrogen de-gassed solution of methyl 2-(2-ethynylphenyl)acetate (14: prepared according to the procedure of Peng, C. et al; Adv. Synth. Catal. 2008, 350, 2359-2364 or as detailed below) (0.114 g, 0.653 mmol) in dry DMF (6 mL) were added triethylamine (0.280 mL, 2.01 mmol) followed by tert-butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate (I3) (0.230 g, 0.502 mmol), triphenylphosphine (0.020 g, 0.075 mmol), trans-dichlorobis(triphenylphosphine) palladium(II) (0.035 g, 0.050 mmol) and CuI (0.014 g, 0.075 mmol). The reaction mixture was heated under microwave irradiation at 120° C. for 20 minutes and then concentrated to dryness in vacuo and purified by silica gel chromatography (Biotage Isolera, 40 g Si cartridge, 0-80% EtOAc in cyclohexane) to give the title compound (I5) (0.267 g, 89% yield) as an orange glassy solid; 1H NMR (400 MHz, d6-DMSO) δ 10.27 (br s, 1H), 8.76 (s, 1H), 7.65-7.49 (m, 4H), 7.49-7.38 (m, 2H), 6.95 (d, J=9.1 Hz, 2H), 3.94 (s, 2H), 3.61 (s, 3H), 3.51-3.42 (m, 4H), 3.09-3.00 (m, 4H), 1.42 (s, 9H). LCMS Method C: rt 6.67 min; m/z 596.3 [M+H]+.

reactant | methyl 2-(2-ethynylphenyl)acetate | C(#C)C1=C(C=CC=C1)CC(=O)OC | C11H10O2
reactant | triethylamine | 2.01 mmol, 0.280 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate | 0.502 mmol, 0.230 g | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C20H23ClF3N5O2
reactant | triphenylphosphine | 0.075 mmol, 0.020 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.075 mmol, 0.014 g | [Cu]I
product | tert-Butyl 4-(4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate | 0.267 g, 89% yield | COC(CC1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)=O | C31H32F3N5O4
